US06987116B2
A mixture of 7-[(2,4-dichloro-5-methoxyphenyl)amino]-2-iodothieno[3,2-b]pyridine-6-carbonitrile (564 mg, 1.18 mmol), tributyl-(5-[1,3]dioxolan-2-yl-thiophen-3-yl)-stannane (680 mg, 1.52 mmol) and a pinch of bis(triphenylphosphine)palladium(II) chloride in 15 mL of dioxane is heated at reflux for 5 hours. Additional bis(triphenylphosphine)palladium(II) chloride is added and the reaction is heated at reflux overnight. Additional bis(triphenylphosphine)palladium(II) chloride and 10 mL of dioxane are added and the reaction is heated at reflux for 5 hours. The reaction mixture is concentrated in vacuo and partitioned between water and chloroform. The organic layer is dried over sodium sulfate, filtered and concentrated in vacuo. The residue is purified by flash column chromatography eluting with 1:1 hexane:ethyl acetate. The fractions containing product are combined and concentrated in vacuo to provide 447 mg of 7-[(2,4-dichloro-5-methoxyphenyl)amino]-2-[5-(1,3-dioxolan-2-yl)thien-3-yl]thieno[3,2-b]pyridine-6-carbonitrile as white crystals, mp 219-221° C.; 1H NMR (DMSO-d6) δ 3.85 (s, 3H), 3.92-4.10 (m, 4H), 6.08 (s, 1H), 7.36 (s, 1H), 7.63 (s, 1H), 7.75 (s, 1H), 7.80 (s, 1H), 7.97 (s, 1H), 8.60 (s, 1H), 9.69 (s, 1H); MS 502.1 (M−H)−.

reactant | 7-[(2,4-dichloro-5-methoxyphenyl)amino]-2-iodothieno[3,2-b]pyridine-6-carbonitrile | 1.18 mmol, 564 mg | ClC1=C(C=C(C(=C1)Cl)OC)NC1=C2C(=NC=C1C#N)C=C(S2)I | C15H8Cl2IN3OS
reactant | tributyl-(5-[1,3]dioxolan-2-yl-thiophen-3-yl)-stannane | 1.52 mmol, 680 mg | C(CCC)[Sn](C1=CSC(=C1)C1OCCO1)(CCCC)CCCC
solvent | dioxane | 15 mL | O1CCOCC1 | C4H8O2
catalyst | bis(triphenylphosphine)palladium(II) chloride | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 7-[(2,4-dichloro-5-methoxyphenyl)amino]-2-[5-(1,3-dioxolan-2-yl)thien-3-yl]thieno[3,2-b]pyridine-6-carbonitrile | 447 mg | ClC1=C(C=C(C(=C1)Cl)OC)NC1=C2C(=NC=C1C#N)C=C(S2)C2=CSC(=C2)C2OCCO2 | C22H15Cl2N3O3S2
